US06136823
Synthesis of 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
Ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate was dissolved in a mixed liquid of acetic acid (10 ml) and 2N hydrochloric acid (8 ml), and the solution was stirred at 100° C. for 2 hours. After the solution was cooled back to room temperature, the solvent was distilled off under reduced pressure. The residue was washed with ethanol and then dissolved in N,N-dimethylformamide (3 ml). Ethanol (3 ml) was further added to the solution, and the mixture was left to stand overnight at room temperature. Crystals deposited were collected by filtration and washed with ethanol to obtain the title compound (740 mg) as colorless crystals.

reactant | Ethyl 7-amino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | NC1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)F | C23H21ClF3N3O5
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 2N, 8 ml | Cl | ClH
product | 7-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 740 mg | NC1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)F | C16H9ClF3N3O3
